US07220769B2
A solution of 2-methoxy-4-cyanobenzoyl chloride (2 g, 10 mmol) in dichloromethane (20 ml) was added dropwise in 1 h to a solution of 4,5-dichlorophenylendiamine (3.54 g, 20 mmol) and triethylamine (10.1 g=13.9 ml, 100 mmol) in dichloromethane (20 ml). Stirring was continued for additional two hours. The solvent was removed under vacuum and the residue was triturated with water (50 ml), filtered and dried at 50° C. under vacuum. The solid was suspended in diethyl ether (150 ml), stirred for 1 h, filtered and dried under vacuum to give 2.9 g of N-(2-amino-4,5-dichlorophenyl)-2-methoxy-4-cyanobenzamide (yield 43%), mp>250° C.

reactant | 2-methoxy-4-cyanobenzoyl chloride | 10 mmol, 2 g | COC1=C(C(=O)Cl)C=CC(=C1)C#N | C9H6ClNO2
reactant | 4,5-dichlorophenylendiamine | 20 mmol, 3.54 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | triethylamine | 100 mmol, 13.9 ml, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2-amino-4,5-dichlorophenyl)-2-methoxy-4-cyanobenzamide | 2.9 g, yield 43% | NC1=C(C=C(C(=C1)Cl)Cl)NC(C1=C(C=C(C=C1)C#N)OC)=O | C15H11Cl2N3O2
